US03951959
C: 1,3-Dimethoxy-17β-acetoxy-1,3,5(10),8-estratetraene
700 mg. pf rac.-1,3-dimethoxy-17β-acetoxy-1,3,5(10),8,14-estrapentaene in 10 ml. of distilled THF is hydrogenated over 200 mg. Pd/CaCO3 (5%) at room temperature and under normal pressure until 46.6 ml. of H2 has been absorbed. After the mixture has been filtered off from the catalyst, dried, and evaporated, 447 mg. of rac.-1,3-dimethoxy-17β-acetoxy-1,3,5(10),8-esratetraene is obtained from methanol, m.p. 111/112°-113° C.

reactant | rac.-1,3-dimethoxy-17β-acetoxy-1,3,5(10),8,14-estrapentaene | COC1=CC(=CC=2CCC=3C4=CC[C@@H]([C@@]4(C)CCC3C12)OC(C)=O)OC | C22H26O4
catalyst | Pd CaCO3 | [Pd].C(=O)([O-])[O-].[Ca+2]
solvent | THF | C1CCOC1 | C4H8O
product | 1,3-Dimethoxy-17β-acetoxy-1,3,5(10),8-estratetraene | COC1=CC(=CC=2CCC=3[C@@H]4CC[C@@H]([C@@]4(C)CCC3C12)OC(C)=O)OC | C22H28O4
